US06664264B2
A 3:1 mixture of 2-butyl-4-chloro-1-[4-(phenylthio)butyl]-1H-imidazo[4,5-c]quinoline to 2-butyl-4-(phenylthio)-1-[4-(phenylthio)butyl]-1H-imidazo[4,5-c]quinoline (1.38 g) and a solution of 7% ammonia in methanol (30 mL) were combined in a bomb and heated to 150° C. The reaction was judged to be complete after 5 hours. The volatiles were removed under reduced pressure and the resulting residue was stirred in water and made basic (pH 10) with solid sodium carbonate. The aqueous mixture was extracted with chloroform (3×). The combined organic layers were washed with saturated aqueous sodium bicarbonate and brine, dried over anhydrous sodium sulfate, filtered and then concentrated under reduced pressure to afford a yellow crystalline solid. The solid (0.8 g) was dissolved in ethyl acetate (50 mL) and brought to reflux. Activated charcoal (0.4 g) was added; the resulting mixture was heated at reflux for 5 minutes and then the charcoal was removed by filtration through fluted paper to provide a colorless solution. The solution was concentrated under reduced pressure to give a solid that was recrystallized from ethyl acetate and hexanes to provide 2-butyl-1-[4-(phenylthio)butyl]-1H-imidazo[4,5-c]quinolin-4-amine (0.51 g, 1.25 mmol) as white needles, m.p. 118-120° C.

reactant | 2-butyl-4-chloro-1-[4-(phenylthio)butyl]-1H-imidazo[4,5-c]quinoline | C(CCC)C=1N(C2=C(C(=NC=3C=CC=CC23)Cl)N1)CCCCSC1=CC=CC=C1 | C24H26ClN3S
reactant | 2-butyl-4-(phenylthio)-1-[4-(phenylthio)butyl]-1H-imidazo[4,5-c]quinoline | 1.38 g | C(CCC)C=1N(C2=C(C(=NC=3C=CC=CC23)SC2=CC=CC=C2)N1)CCCCSC1=CC=CC=C1 | C30H31N3S2
reactant | ammonia | N | H3N
reactant | charcoal | 0.4 g | C | CH4
solvent | methanol | 30 mL | CO | CH4O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-butyl-1-[4-(phenylthio)butyl]-1H-imidazo[4,5-c]quinolin-4-amine | 1.25 mmol, 0.51 g | C(CCC)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCCSC1=CC=CC=C1 | C24H28N4S
